US06114390
c) 4-Cyano-N-methyl-benzenemethanesulphonamide
Gaseous methylamine was introduced into a solution of 0.8 g (3.71 mMol) of 4-cyanobenzenemethanesulphonic acid chloride in 20 ml of tetrahydrofuran until a distinctly alkaline reaction was obtained. The mixture was stirred for a further hour at ambient temperature, the excess methylamine together with the solvent was distilled off in vacuo and the residue was triturated with diethylether. The crystals formed were suction filtered and dried. 420 mg (54% of theory) of colourless crystals were obtained, Mp. 151-152° C.

reactant | methylamine | CN | CH5N
reactant | 4-cyanobenzenemethanesulphonic acid chloride | 3.71 mMol, 0.8 g | C(#N)C1=CC=C(C=C1)CS(=O)(=O)Cl | C8H6ClNO2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-Cyano-N-methyl-benzenemethanesulphonamide | C(#N)C1=CC=C(C=C1)CS(=O)(=O)NC | C9H10N2O2S
